US04179514
Preparation of 2-[O-[N-methyl-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyl]oximino]-3,5,5-trimethylthiazolidin-4-one
Prepared as in Example I by reacting 2.94 g (0.0169 m) of 3,5,5-trimethyl-2-oximino-thiazolidin-4-one, 4.0 g (0.0169 m) of N-methyl-N-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyl chloride and 1.7 g (0.0169 m) of triethylamine in 200 ml of dioxane. The productcrystallized from isopropyl ether to yield 2.5 g of a white solid, m.p. 112°-114° C.

reactant | 3,5,5-trimethyl-2-oximino-thiazolidin-4-one | 2.94 g | CN1C(SC(C1=O)(C)C)=NO | C6H10N2O2S
reactant | N-methyl-N-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyl chloride | 4.0 g | CN(C(=O)Cl)SC(C)(C(C(C)C)=O)C | C9H16ClNO2S
reactant | triethylamine | 1.7 g | C(C)N(CC)CC | C6H15N
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 2-[O-[N-methyl-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyl]oximino]-3,5,5-trimethylthiazolidin-4-one | 2.5 g | CN(C(=O)ON=C1SC(C(N1C)=O)(C)C)SC(C)(C(C(C)C)=O)C | C15H25N3O4S2
